US07304066B2
3-[6-amino-1-hexyl-oxy]-pyridine
A solution of 3-[6-amino-1-hexyl-oxy]-pyridine, hydrochloride in water was made strongly alkaline with sodium hydroxide and ectracted twice with chloroform. The organic phase was dried and evaporated in vacuo to yield an oil which was used in the next step without further purification.

reactant | 3-[6-amino-1-hexyl-oxy]-pyridine, hydrochloride | Cl.NCCCCCCOC=1C=NC=CC1
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3-[6-amino-1-hexyl-oxy]-pyridine | NCCCCCCOC=1C=NC=CC1 | C11H18N2O
